US07307076B2
b) 5-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one
9.6 g (30 mmol) 8-acetyl-5-benzyloxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one, 3.3 g (30 mmol) selenium dioxide and activated charcoal are stirred for 7 hours in 90 mL dioxane and 2 mL water at reflux temperature. The solid is suction filtered, the filtrate is evaporated down and the residue is refluxed for 30 minutes in 100 ml of ethanol. The solvent is distilled off and the residue is dissolved in 125 mL ethyl acetate. It is extracted successively with potassium carbonate solution and water, dried with sodium sulphate and evaporated down. The oil remaining (10.1 g) is further reacted directly.

reactant | 8-acetyl-5-benzyloxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 30 mmol, 9.6 g | C(C)(=O)C1=CC=C(C=2NC(C(OC21)(C)C)=O)OCC2=CC=CC=C2 | C19H19NO4
reactant | selenium dioxide | 30 mmol, 3.3 g | [Se](=O)=O | O2Se
reactant | charcoal | C | CH4
reactant | water | 2 mL | O | H2O
reactant | dioxane | 90 mL | O1CCOCC1 | C4H8O2
product | 5-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(C(O2)(C)C)=O)C(C(O)OCC)=O | C21H23NO6
